US06888032B2
The general procedure in example 39 was followed. 3-Iodoanisole (234 mg, 1.0 mmol), 2-Isopropylbenzenethiol (90% purity, 168 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 3-(2-isopropylphenyl)sulfanylanisole (241 mg, 93% yield) as colorless liquid. Column chromatographic solvent (hexane/ethyl acetate=40/1). Rf=0.3 (hexane/ethyl acetate=40/1). 1H NMR (CDCl3, 300 MHz) δ 7.29-7.36 (m, 3 H), 7.09-7.17 (m, 2 H), 6.67-6.73 (m, 3 H), 3.72 (s, 3 H), 3.54 (hept, 1 H, J=6.9 Hz), 1.22 (s, 3 H), 1.19 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 160.1, 150.9, 139.0, 134.5, 132.1, 129.9, 128.9, 126.8, 126.3, 121.4, 114.4, 111.9, 55.6, 31.1, 24.0. IR (neat, cm−1) 3060, 2962, 2867, 2834, 2362, 2343. MS (EI) m/z (relative intensity) 258 (100), 241 (30), 225 (30). HRMS (EI), Cald. for C16H18OS 258.1078. Found 258.1080.

reactant | 3-Iodoanisole | 1.0 mmol, 234 mg | IC=1C=C(C=CC1)OC | C7H7IO
reactant | 2-Isopropylbenzenethiol | 1.0 mmol, 168 μL | C(C)(C)C1=C(C=CC=C1)S | C9H12S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 3-(2-isopropylphenyl)sulfanylanisole | 241 mg, 93% yield | C(C)(C)C1=C(C=CC=C1)SC=1C=C(C=CC1)OC | C16H18OS
